US08106043B2
tert-Butyl 2-(6-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl(ethyl)carbamate:
To a stirred solution of tert-butyl ethyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate (925 mg, 2.52 mmol) in ethanol (10 mL) was added Raney-Nickel (˜148 mg, 2.52 mmol) followed by hydrazine hydrate (1.225 mL, 25.2 mmol). The resulting mixture was stirred vigorously at 50° C. for 10 minutes. The mixture was then cooled to room temperature, diluted with ethyl acetate, and then washed sequentially with a 1:1 mixture of water and saturated sodium carbonate (3×) and saturated sodium carbonate. The organic phase was dried, filtered, and concentrated giving a red oil (810 mg, 95%); ESI-MS (m/z, %): 338 (MH+, 100), 282 (53), 238 (36).

reactant | tert-butyl ethyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate | 2.52 mmol, 925 mg | C(C)N(C(OC(C)(C)C)=O)CCN1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-] | C17H25N3O4S
reactant | hydrazine hydrate | 25.2 mmol, 1.225 mL | O.NN
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Raney-Nickel | 2.52 mmol, ˜148 mg | [Ni] | Ni
product | tert-Butyl 2-(6-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl(ethyl)carbamate | 810 mg, 95% | NC1=CC2=C(SCCN2CCN(C(OC(C)(C)C)=O)CC)C=C1 | C17H27N3O2S
